US05807886
A solution of 7-nitro-3,4-dihydroisoquinoline (3.00 g, 17.0 mmol) and 5% palladium on carbon (3.0 g) in decalin (75 ml) was heated at reflux for 3 h. Upon cooling, the solution was filtered and the catalyst washed with chloroform (200 ml). The solvent was removed in vacuo to give 7-nitroisoquinoline (1.63 g) as a tan solid. MS 175 (M+H).

reactant | 7-nitro-3,4-dihydroisoquinoline | 17.0 mmol, 3.00 g | [N+](=O)([O-])C1=CC=C2CCN=CC2=C1 | C9H8N2O2
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
solvent | decalin | 75 ml | C1CCCC2CCCCC12 | C10H18
product | 7-nitroisoquinoline | 1.63 g | [N+](=O)([O-])C1=CC=C2C=CN=CC2=C1 | C9H6N2O2
